US05034417
Sodium borohydride (1.49 g) was added portionwise to a stirred mixture of 2'-(2,4-difluorobenzoyl)-4'-nitromethanesulfonanilide (5.6 g) in tetrahydrofuran (50 ml). The mixture was stirred at room temperature for 4 hours, treated with acetic acid (5 ml) and water (20 ml), had concentrated to dryness. The residue was dissolved in ethyl acetate and washed with water. The organic layer was dried and evaporated to give a powder of 2'-(2,4-difluoro-α-hydroxybenzyl)-4'-nitromethanesulfonanilide (5.3 g).

reactant | Sodium borohydride | 1.49 g | [BH4-].[Na+]
reactant | 2'-(2,4-difluorobenzoyl)-4'-nitromethanesulfonanilide | 5.6 g | FC1=C(C(=O)C2=C(NS(=O)(=O)C)C=CC(=C2)[N+](=O)[O-])C=CC(=C1)F | C14H10F2N2O5S
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
reactant | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2'-(2,4-difluoro-α-hydroxybenzyl)-4'-nitromethanesulfonanilide | 5.3 g | FC1=C(C(O)C2=C(NS(=O)(=O)C)C=CC(=C2)[N+](=O)[O-])C=CC(=C1)F | C14H12F2N2O5S
